US07585885B2
6-Cyclobutylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester
Add 6-chloropyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester (0.500 g, 2.05 mmol), palladium acetate (0.0461 g, 0.205 mmol), racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl (0.128 g, 0.205 mmol), cesium carbonate (0.801 g, 2.46 mmol) and toluene (5 mL), to a sealed vessel flushed with nitrogen. Slowly add cyclobutylamine (0.210 mL, 2.46 mmol) and heat and stir the sealed vessel at 90° C. overnight. Cool to room temperature, filter through a pad of filtering agent, concentrate and purify (silica gel chromatography, eluting with 10:90 to 20:80 ethyl acetate:hexanes) to give the title compound (0.223 g, 39%).

reactant | 6-chloropyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester | 2.05 mmol, 0.500 g | COC(=O)C1=CC(=NC(=C1)Cl)C(=O)OCC | C10H10ClNO4
reactant | racemic 2,2′-bis(diphenylphosphino)-1,1′-binaphthyl | 0.205 mmol, 0.128 g | C1(=CC=CC=C1)P(C1=C(C2=CC=CC=C2C=C1)C1=C(C=CC2=CC=CC=C12)P(C1=CC=CC=C1)C1=CC=CC=C1)C1=CC=CC=C1 | C44H32P2
reactant | cesium carbonate | 2.46 mmol, 0.801 g | C([O-])([O-])=O.[Cs+].[Cs+]
reactant | cyclobutylamine | 2.46 mmol, 0.210 mL | C1(CCC1)N | C4H9N
catalyst | palladium acetate | 0.205 mmol, 0.0461 g | C(C)(=O)[O-].[Pd+2].C(C)(=O)[O-]
solvent | toluene | 5 mL | C1(=CC=CC=C1)C | C7H8
product | 6-Cyclobutylaminopyridine-2,4-dicarboxylic acid 2-ethyl ester 4-methyl ester | 0.223 g, 39% | COC(=O)C1=CC(=NC(=C1)NC1CCC1)C(=O)OCC | C14H18N2O4
